US06307047B1
2-(3,4-Difluorophenyl)-4-(4-fluorophenoxy)-5-[3-fluoro-4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 346, starting with 2-(3,4-difluorophenyl)-4-tosyloxy-5-[3-fluoro-4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 4-fluorophenol in place of isobutanol mp 168-170° C. 1H NMR (300 MHz, DMSO-d6) δ 3.39 (s, 3H), 7.15 (d, 4H), 7.51 (m, 1H), 7.6 (m, 1H) 7.75 (m, 3H), 7.97 (t, 1H); 8.4 (s, 1H). MS (DCI/NH3) m/z 491 (M+H)+, 508 (M+NH4)+. Anal. calc. for C23H14F4N2O4S: C, 56.33; H, 2.88; N, 5.71. Found, C, 56.07; H, 2.94; N, 5.33.

reactant | 2-(3,4-difluorophenyl)-4-tosyloxy-5-[3-fluoro-4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC(=C(C=C1)S(=O)(=O)C)F | C24H17F3N2O6S2
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | NH3 | N | H3N
product | 2-(3,4-Difluorophenyl)-4-(4-fluorophenoxy)-5-[3-fluoro-4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OC1=CC=C(C=C1)F)C1=CC(=C(C=C1)S(=O)(=O)C)F | C23H14F4N2O4S
